US09428513B2
N′-(5-bromo-3-chloropyrazin-2-yl)-2,2,2-trifluoroacetohydrazide G-1
N′-(3-chloropyrazin-2-yl)-2,2,2-trifluoroacetohydrazide E-1 (19.5 g; 81.1 mmol) is dissolved in 300 ml anhydrous DCM and cooled down to −40° C. Afterwards NBS (18.8 g; 105 mmol) is added and stirred for 1 hour. The solution is diluted with water and extracted with DCM. The organic phase is then purified with flash chromatography: cHex/(EtOAc/CH3COOH=9/1)=80%/20% to 70%/30% within 10 column volumes.

reactant | N′-(3-chloropyrazin-2-yl)-2,2,2-trifluoroacetohydrazide | ClC=1C(=NC=CN1)NNC(C(F)(F)F)=O | C6H4ClF3N4O
reactant | NBS | 105 mmol, 18.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N′-(5-bromo-3-chloropyrazin-2-yl)-2,2,2-trifluoroacetohydrazide | BrC=1N=C(C(=NC1)NNC(C(F)(F)F)=O)Cl | C6H3BrClF3N4O
